Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall, right hip fracture
 
Major Surgical or Invasive Procedure:
___ - Right hip titanium femoral nailing

 
History of Present Illness:
___ right-handed ___ man with a past medical history 
of left
frontal stroke in ___ leading to residual aphasia, 
hemiparesis,incontinence and cognitive decline, who now presents 
after afall. OSH imaging was concerning for a cerebellar 
hemorrhage, so both neurosurgery and neurology were consulted to 
assist in evaluation of this. 
At baseline, pt can ambulate independently. He is otherwise 
fully dependent in all ADLs. He can say only few words but his 
comprehension is a little better, and he usually follows simple 
commands and answers questions by shaking his head or nodding. 
He can feed himself if his food is prepared. The ___ has been
noticing gradual cognitive decline over the last couple of 
years, with mental slowing, inability to concentrate and perform 
complex activities like playing cards, also worsening 
incontinence. 

Four days ago, pt had an unwitnessed fall in bathroom, heard by 
caretaker. He had a left temporo-parietal laceration from 
this,which initially bled profusely. The caretaker called the 
pt's previous PCP in ___, who recommended holding aspirin. The 
next day, left leg swelling was noted. Pt has been in bed or 
sitting up in a chair for the entirety of the last 4 days, 
unable to
ambulate. His appetite and oral intake have been poor. He 
appears significantly more lethargic than usual to the ___ (who 
just
returned from a trip to ___ and ___ the pt to the ED). His
aspirin has been held. He has been getting an ___ combination
of ibuprofen and paracetamol for pain. 

The patient is unable to offer a ROS.  
 
Past Medical History:
- Hypertension 
- Hyperlipidemia
- s/p prostatectomy
- s/p cataract surgery
- h/x of left arm fracture requiring surgery.
 
Social History:
___
Family History:
Unknown- parents may have died of "old age"

 
Physical Exam:
ON ADMISSION:
===========================================
97.9 67 139/58 16 100% RA 
General: Lethargic 
- Head: R parietotemporal laceration
- Neck: Supple, no nuchal rigidity. B/l arcus senilis and
transverse earlobe creases.
- Cardiovascular: carotids with good volume & brisk upstroke;
jugular veins down, no RV heave; distant heart sounds w/RRR, no
M/R/G 
- Respiratory: Nonlabored, clear to auscultation with good air
movement bilaterally
- Abdomen: nondistended, no tenderness/rigidity/guarding. There
is a palpable, nontender, mobile sausage-shaped mass in the RLQ
- Extremities: cool, no edema, palpable dorsalis pedis pulses.
Right leg internally rotated and shortened

 
Pertinent Results:
ON ADMISSION:
======================================
___ 02:36PM BLOOD WBC-7.4 RBC-2.84* Hgb-8.9* Hct-28.1* 
MCV-99* MCH-31.2 MCHC-31.5 RDW-13.1 Plt ___
___ 02:36PM BLOOD Neuts-81.3* Lymphs-11.1* Monos-5.1 
Eos-1.9 Baso-0.5
___ 02:36PM BLOOD ___ PTT-22.2* ___
___ 02:36PM BLOOD Glucose-123* UreaN-92* Creat-2.9* Na-148* 
K-4.8 Cl-112* HCO3-22 AnGap-19
___ 02:36PM BLOOD ALT-23 AST-36 CK(CPK)-303 AlkPhos-83 
TotBili-0.7
___ 02:36PM BLOOD Lipase-104*
___ 02:36PM BLOOD cTropnT-<0.01
___ 02:36PM BLOOD Albumin-4.0 Calcium-9.3 Phos-4.5 Mg-2.7*

LAST LABS:
___ 04:58AM BLOOD WBC-13.1* RBC-3.68* Hgb-11.4* Hct-36.4* 
MCV-99* MCH-31.0 MCHC-31.3 RDW-14.6 Plt ___
___ 04:58AM BLOOD Glucose-203* UreaN-41* Creat-2.0* Na-140 
K-4.4 Cl-100 HCO3-23 AnGap-21*
___ 05:51AM BLOOD ___ Temp-37.6 pO2-70* pCO2-49* 
pH-7.27* calTCO2-23 Base XS--4 Intubat-NOT INTUBA Comment-GREEN 
TOP
___ 05:59AM BLOOD Type-ART pO2-75* pCO2-41 pH-7.37 
calTCO2-25 Base XS--1
___ 05:51AM BLOOD Lactate-4.3*
___ 05:59AM BLOOD Lactate-4.0*

IRON STUDIES:
=======================================
___ 02:44PM BLOOD calTIBC-235* Ferritn-299 TRF-181*

ENDOCRINE STUDIES:
=======================================
___ 11:30AM BLOOD TSH-7.0*
___ 06:30PM BLOOD TSH-16*
___ 11:30AM BLOOD Free T4-1.0

URINE:
========================================
___ 11:15PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 11:15PM URINE RBC-14* WBC-68* Bacteri-MOD Yeast-NONE 
Epi-0
___ 11:15PM URINE CastHy-10*

MICROBIOLOGY:
=========================================
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

STUDIES:
=========================================
EKG (___)
Sinus rhythm. Left axis deviation. Intraventricular conduction 
delay. 
Consider anteroseptal myocardial infarction. ST-T wave 
abnormalities. No 
previous tracing available for comparison.  

CT HEAD W/O CONTRAST (___)
An 8 mm hyperdensity is seen in the cerebellum on the left, 
likely 
representing an intraparenchymal hemorrhage or possibly a 
hyperdense lesion 
such as a vascular malformation which is considered less likely. 
Mild 
surrounding hypodensity is seen suggesting edema without 
significant mass 
effect.  There is no evidence of mass effect, or infarction.  
Prominent 
ventricles and sulci suggest age related involutional changes or 
atrophy.  
Periventricular white matter hypodensities are consistent with 
chronic small 
vessel ischemic disease.  The basal cisterns appear patent and 
there is 
preservation of gray-white matter differentiation.  
  
No fracture is identified.  Visualized paranasal sinuses, 
mastoid air cells, 
and middle ear cavities are clear.  The globes are intact.   
  
IMPRESSION:  Focus of hyperdensity in the cerebellum on the 
left, likely 
representing an intraparenchymal hemorrhage, less likely a 
hyperdense lesion 
such as a vascular malformation.  Recommend followup imaging to 
ensure 
expected evolution. 

CT C-SPINE (___)
1. Degenerative changes without cervical spine fracture or 
subluxation.    
2. Hyperdensity within the cerebellum is better characterized on 
dedicated head CT.   

CXR (___)
No acute cardiopulmonary abnormality.   

FEMUR (___)
Displaced right intertrochanteric femoral neck fracture.  No 
dislocation.

ECHO (___)
The estimated right atrial pressure is ___ mmHg. Left 
ventricular wall thicknesses and cavity size are normal. Overall 
left ventricular systolic function is mildly depressed (LVEF= 
45-50%) secondary to hypokinesis of the basal-distal anterior 
septum. The LV apex was not well seen (possibly hypokinetic). 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are structurally normal. There is no 
mitral valve prolapse. There is mild mitral regurgitation.There 
is moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
regional left ventricular systolic dysfunction is new. Pulmonary 
pressures are higher. Other findings are similar.  

LOWER EXTREMITY FLUORO (___)
Images from the operating suite show placement of fixation 
device 
about the fracture of the proximal right femur.  Further 
information can be 
gathered from the operative report. 
  
KNEE XRAY (___)
There is moderate right knee joint effusion.  There are no signs 

for acute fractures or dislocations.  The knee joint spaces are 
relatively 
preserved.  On the AP view, there is some periosteal thickening 
along the 
lateral aspect of the distal femoral metaphysis.  This may be 
due to prior old 
trauma.  Alternatively, the patient has lung pathology, this may 
represent 
hypertrophic pulmonary osteoarthropathy. 

CT HEAD W/O CONTRAST (___)
1.  Stable right cerebellar hemispheric hyperdense focus, with 
surrounding ring of vasogenic edema.     
These findings are concerning for underlying malignancy, 
although they may also be compatible with parenchymal contusion 
or primary (hypertensive) hemorrhage.  Enhanced MRI could be 
considered for further characterization of the lesion.     
2.  No evidence of new hemorrhage or large territorial 
infarction.   
3.  Age related atrophic changes and evidence of chronic small 
vessel ischemic disease.  

 
Brief Hospital Course:
___ with PMH significant for prior left thalamic ischemic CVA 
in ___ with residual aphasia presented s/p fall 4 days prior to 
admission. OSH imaging concerning for a cerebellar hemorrhage. 
Initial hospital course as below.

On the night of ___  he was found to have vomited copious 
coffee ground emesis, his O2 sat was 75% on RA, and he was in 
acute respiratory distress.  Small amounts of coffee grounds 
were suctioned from his airway, and his SpO2 improved to low ___ 
on a non-rebreather mask but could not be weaned.  Lactate found 
to be 4.3, VBG 7.27/49/70 and ABG 7.37/41/75.  CXR showed a new 
infiltrate in RLL consistent with likely aspiration event as 
well as dilated loops of bowel. Gastroccult was positive so a 
PPI bolus + drip was started.  Family was called and after 
discussion with his health care providers regarding his clinical 
circumstances, the decision was made to change his code status 
to DNR/DNI and he was transferred to the MICU for further care. 

On arrival to the MICU, a goals of care discussion was held with 
the family and the decision was made to make the patient comfort 
measures only. The family was in accordance with this plan and 
all of their questions regarding his clinical circumstances were 
answered. He was placed on a morphine drip for comfort. Time of 
death was 8:05am on ___. Organ bank was notifed, but 
declined donation. The family declined autopsy, and while 
saddened by his death, they endorsed appreciation of the medical 
care he had received while at ___. 

========================================
# Cerebellar hemorrhage:
The patient was evaluated by neurology and neurosurgery, who 
felt the cerebellar hemorrhage was likely due to spontaneous 
bleed rather than a contusion. The hemorrhage also appears to be 
non-acute. The patient did not have any indications for 
neurosurgical intervention as imaging did not reveal mass effect 
or midline shift. Furthermore, the patient's neurologic 
examination remained stable. Aspirin was discontinued in setting 
of spontaneous bleed. 

# S/p right trochanteric fracture:
Patient s/p trochanteric fixation on ___ without 
complications. The patient's pain was initially managed with 
morphine, however this was later discontinued as he developed 
urinary retention. The patient's pain was controlled with 
standing tylenol. 

# Acute kidney injury:
Cr on admission 2.9, baseline 1.1-1.3. Etiology likely pre-renal 
as patient had poor PO intake prior to admission. NSAIDs may 
have contributed as well. 

# Hypernatremia:
Likely secondary to hypovolemia as patient had poor PO intake. 
Hypernatemia corrected with IVF.

# UTI:
Urinalysis with pyuria and bacteriuria. The patient was started 
on ciprofloxacin, but this was discontinued on day 3 when 
cultures returned negative.

# Acute urinary retention:
Patient has a history of urinary incontinence. Etiology of acute 
urinary retention thought to be secondary to post-operative 
urinary retention due to opioid use. A foley was placed and 
opioids discontinued. The patient failed a voiding trial x 3. 

# Normocytic anemia:
Patient presented with normocytic anemia. He required 2 units of 
RBCs during this admission. Iron studies were done after the 
patient received the transfusions. The patient was started on 
ferrous sulfate. 

- Health care proxy ___. Phone 
___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
expired
 
Discharge Condition:
expired
 
Discharge Instructions:
n/a
 
Followup Instructions:
___